US04155912
B. p-Nitrobenzyl 2-(4-Acetylthio-2-oxo-1-azetidinyl)-2-chloroacetate
To a cooled (-10°) and stirred solution of p-nitrobenzyl 2-(4-acetylthio-2-oxo-1-azetidinyl)-2-hydroxyacetate (102 g., 0.250 mole) in tetrahydrofuran (2000 ml.) were added in succession pyridine (27.1 ml., 0.287 mole) and thionyl chloride (25.2 ml., 0.287 mole); the thionyl chloride addition was done over ca 15 minutes. The mixture was stirred for 30 minutes at -10° and filtered. Concentration of the filtrate left a yellow oil which was partially purified by absorption on a pad of silica gel (800 ml.) and elution with chloroform (ca 3000 ml.). Concentration of the eluates gave an oil (92.9 g., 100%) which was found to contain a minimum of 90% of the title ester as a mixture of epimers.

reactant | p-nitrobenzyl 2-(4-acetylthio-2-oxo-1-azetidinyl)-2-hydroxyacetate | 0.250 mole, 102 g | C(C)(=O)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O)=O | C14H14N2O7S
reactant | pyridine | 0.287 mole, 27.1 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.287 mole, 25.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 2000 ml | O1CCCC1 | C4H8O
product | p-Nitrobenzyl 2-(4-Acetylthio-2-oxo-1-azetidinyl)-2-chloroacetate | C(C)(=O)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Cl)=O | C14H13ClN2O6S
